US07244721B2
Step 1. Synthesis of isobutyloxycarbonyl-cyclohexylglycine (iBoc-G(Chx)-OH)
To a solution of the commercially available cyclohexylglycine hydrochloride (15 g, 77.4 mmol) in acetonitrile (320 ml) and water (320 ml) was added potassium carbonate. Isobutylchloroformate (11.1 ml, 85.1 mmol) was added to the clear solution over 15 minutes and the reaction was stirred for 17 hours. The acetonitrile was removed under reduced pressure and the remaining aqueous layer was extracted twice with ether (100 ml). The aqueous layer was then acidified to pH 1 with 6N hydrochloric acid and extracted with dichloromethane (3×300 ml). The organic layer was dried over sodium sulfate, filtered and concentrated to yield 18.64 g (94%) product as a white solid.

reactant | cyclohexylglycine hydrochloride | 77.4 mmol, 15 g | Cl.C1(CCCCC1)NCC(=O)O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | Isobutylchloroformate | 85.1 mmol, 11.1 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | acetonitrile | 320 ml | C(C)#N | C2H3N
solvent | water | 320 ml | O | H2O
product | isobutyloxycarbonyl-cyclohexylglycine | 18.64 g, 94% | C(C(C)C)OC(=O)N(CC(=O)O)C1CCCCC1 | C13H23NO4
